US04622182
The synthetic route to 5-(4-bromophenoxy)isophthaloyl chloride is depicted in Equation II below. Potassium 3,5-dimethylphenoxide (1.0 mole) was reacted with 1,4-dibromobenzene (2.0 moles) in the presence of copper at 200° C. under nitrogen for two hours. The hot reaction mixture was poured into aqueous potassium hydroxide and subsequently filtered. The resulting oily filtrate was extracted with methylene chloride and the organic phase was washed with water. The methylene chloride was removed and the residue was distilled under vacuum to provide 1-(4-bromophenoxy)-3,5-dimethylbenzene as a colorless liquid in 60% yield. 1-(4-Bromophenoxy)-3,5-dimethylbenzene was oxidized with potassium permanganate (6:1 molar ratio) in a 1:1 mixture of pyridine and water at 90° C. for six hours. The brown reaction mixture was filtered and the filtrate was acidified to afford 5-(4-bromophenoxy)isophthalic acid (m.p. 310°-320° C.) in 80% crude yield. The dicarboxylic acid was refluxed in excess thionyl chloride containing a few drops of N,N-dimethylformamide for six hours. The excess thionyl chloride was removed under vacuum to yield an orange residue which was recrystallized twice from heptane to afford 5-(4-bromophenoxy)isophthaloyl chloride as pale yellow crystals, m.p. 80°-81° C.

reactant | 5-(4-bromophenoxy)isophthaloyl chloride | BrC1=CC=C(OC=2C=C(C=C(C(=O)Cl)C2)C(=O)Cl)C=C1 | C14H7BrCl2O3
reactant | Potassium 3,5-dimethylphenoxide | 1.0 mole | CC=1C=C([O-])C=C(C1)C.[K+]
reactant | 1,4-dibromobenzene | 2.0 moles | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | potassium hydroxide | [OH-].[K+]
catalyst | copper | [Cu] | Cu
product | 1-(4-bromophenoxy)-3,5-dimethylbenzene | 60% yield | BrC1=CC=C(OC2=CC(=CC(=C2)C)C)C=C1 | C14H13BrO
